US04407803
A mixture of 4-chloro-7-trifluoromethylquinoline (21.95 g.) in ethanol (100 ml.) and hydrazine hydrate (60 g.) was refluxed overnight. The solvent and the excess of reagent were removed in vacuo to give 4-hydrazino-7-trifluoromethylquinoline hydrochloride.

reactant | 4-chloro-7-trifluoromethylquinoline | 21.95 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | hydrazine hydrate | 60 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-hydrazino-7-trifluoromethylquinoline hydrochloride | Cl.N(N)C1=CC=NC2=CC(=CC=C12)C(F)(F)F | InChI=1S/C10H8F3N3.ClH/c11-10(12,13)6-1-2-7-8(16-14)3-4-15-9(7)5-6;/h1-5H,14H2,(H,15,16);1H
